*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-01[uF]/16[V]
* Murata P/N :GRT155R71C104KE01
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71C104KE01 Port1 Port2
C01 Port1 N01 9.73e-08
R01 Port1 N01 5.00e+08
L02 N01 N02 1.90e-10
R03 N02 N03 1.58e-02
C04 N03 N04 1.12e-05
R04 N03 N04 3.55e+02
C05 N04 N05 1.82e-05
R05 N04 N05 3.98e+01
C06 N05 N06 1.24e-05
R06 N05 N06 9.11e+00
C07 N06 N07 1.18e-05
R07 N06 N07 1.35e+00
C08 N07 N08 9.68e-06
R08 N07 N08 1.66e-01
C09 N08 N09 1.30e-05
R09 N08 N09 1.99e-02
C10 N09 N10 9.01e-06
R10 N09 N10 1.08e-02
L11 N10 N11 2.03e-11
R11 N10 N11 2.10e-01
L12 N11 N12 9.15e-11
R12 N11 N12 7.33e-02
C13 N12 N13 4.11e-07
L13 N12 N13 2.04e-11
R13 N12 N13 1.58e-02
C14 N13 N14 3.37e-07
L14 N13 N14 1.39e-11
R14 N13 N14 1.81e-02
C15 N14 Port2 8.84e-12
L15 N14 Port2 3.54e-11
R15 N14 Port2 6.00e+00
.ENDS GRT155R71C104KE01
